US08431575B2
To a stirred solution of 4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester (3.0 mmol, 604 mg) in THF (10 mL) at 0° C., NaH (60% dispersion in mineral oil, 4.0 mmol, 160 mg) was added and stirring continued for 10 min at room temperature, then 4-(4-benzyloxy-3-methoxy-phenyl)-3-butyl-6-chloro-pyridazine (2.0 mmol, 766 mg) was added. The resulting mixture was stirred at 50° C. for 1 hour, poured into ice-water and extracted with ethyl acetate. The organic layers were combined and concentrated under reduced pressure. The product was purified by column chromatography using 50% ethyl acetate in hexanes to give 4-[5-(4-benzyloxy-3-methoxy-phenyl)-6-butyl-pyridazin-3-yloxy]-piperidine-1-carboxylic acid tert-butyl ester, which was dissolved in dichloromethane (2.0 mL), added 4.0 M HCl in dioxane (2.0 mL) and stirred at room temperature for 1 hour. Solvents were evaporated in vacuo to give 4-(4-benzyloxy-3-methoxy-phenyl)-3-butyl-6-(piperidin-4-yloxy)-pyridazine dihydrochloride (635 mg).

reactant | 4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | 3.0 mmol, 604 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | NaH | 4.0 mmol, 160 mg | [H-].[Na+]
reactant | 4-(4-benzyloxy-3-methoxy-phenyl)-3-butyl-6-chloro-pyridazine | 2.0 mmol, 766 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C1=C(N=NC(=C1)Cl)CCCC)OC | C22H23ClN2O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-[5-(4-benzyloxy-3-methoxy-phenyl)-6-butyl-pyridazin-3-yloxy]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)OC=1N=NC(=C(C1)C1=CC(=C(C=C1)OCC1=CC=CC=C1)OC)CCCC | C32H41N3O5
